US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (5-fluoro-thiazol-2-yl)-amide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 5-Fluoro-thiazol-2-ylamine instead of 3-Chloroaniline to yield the final compound as a light yellow crystalline solid, MS (ISP): m/e=333.1 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 5-Fluoro-thiazol-2-ylamine | FC1=CN=C(S1)N | C3H3FN2S
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (5-fluoro-thiazol-2-yl)-amide | FC1=CN=C(S1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C15H10F2N4OS
